datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[S]2.CC[S:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CCCCCC>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OCCCCCC)[O:21]CC)CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OCCCCCC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[OH:21][C:20]1([H])[OH+:10]C([H])C(C)=C1O>>[OH:10]C([H])/C(C)=C([C:20]([H])=[OH+:21])/O 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[Cl:21])C)CC>>CC1C(C(O[C:20](=[O:10])N1[H])C)CC.[Cl-:21] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21]C)([S][H])[S]C.[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([S][H])[S]C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])O[H])[H].[O-:21][H]>>C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21][H])[H] 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)CC 10=20;20,21=21"
"[H][S+:10](C([H])C([H])[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[NH]CC.[Cl-]>>[Cl-].CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[NH]CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)C)C>>CCCCCCN([C:20]1(OC(C([O:21]1)CCCCCC)C)[O-:10])C 21=20;20,10=10"
"[O:10]([K])C(CC)C([H])C(O)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(O)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
